US08466199B2
The reaction of ethyl 2-hydroxy-5-methyl-benzoate and allyl bromide in 2-butanone in the presence of potassium carbonate was performed as described in Example 2 to give 2-Allyloxy-5-methyl-benzoic acid as white powder. 1H-NMR (400 MHz, d6-DMSO): 12.52 (s, —CO2H); 7.43 (m, 1 arom. H); 7.26 (m, 1 arom. H); 6.98 (m, 1 arom. H); 5.99 (m, —CH═CH2); 5.46, 5.22 (2 d-like, CH═CH2); 4.56 (d-like, CH2—CH═CH2); 2.23 (s, —CH3). 13C-NMR (100 MHz, d6-DMSO): 167.39 (C═O); 154.91; 133.52; 133.20; 130.91; 129.05; 121.34; 116.83; 113.79; 68.69; 19.78.

reactant | ethyl 2-hydroxy-5-methyl-benzoate | OC1=C(C(=O)OCC)C=C(C=C1)C | C10H12O3
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 2-Allyloxy-5-methyl-benzoic acid | C(C=C)OC1=C(C(=O)O)C=C(C=C1)C | C11H12O3
